US07834030B2
To a solution of 220 g of 2-(4-trifluoromethyl-phenyl)-4-(4-trifluoromethyl-piperidin-1-ylmethyl)-thiazole-5-carboxylic acid ethyl ester in 2.2 L of tetrahydrofuran at 0° C. was dropwise added 250 mL of a 2M solution of lithium aluminum hydride in tetrahydrofuran. The resulting mixture was stirred for 1 h allowing it to warm up to room temperature then slowly poured into 1 L of cold water and extracted twice with 1.5 L of ethyl acetate. The combined organic extracts were dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The crude product was washed with 500 mL of hot diisopropyl ether then purified by column chromatography on silica gel (gradient of dichloromethane/ethanol from 100/0 to 90/10) to give 163 g of [2-(4-trifluoromethyl-phenyl)-4-(4-trifluoromethyl-piperidin-1-ylmethyl)-thiazol-5-yl]-methanol as a white solid.

reactant | 2-(4-trifluoromethyl-phenyl)-4-(4-trifluoromethyl-piperidin-1-ylmethyl)-thiazole-5-carboxylic acid ethyl ester | 220 g | C(C)OC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)C(F)(F)F)CN1CCC(CC1)C(F)(F)F | C20H20F6N2O2S
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 1 L | O | H2O
solvent | tetrahydrofuran | 2.2 L | O1CCCC1 | C4H8O
product | [2-(4-trifluoromethyl-phenyl)-4-(4-trifluoromethyl-piperidin-1-ylmethyl)-thiazol-5-yl]-methanol | 163 g | FC(C1=CC=C(C=C1)C=1SC(=C(N1)CN1CCC(CC1)C(F)(F)F)CO)(F)F | C18H18F6N2OS
